US06528525B1
(e) Sodium 2-butyl-3-[4-[2-(3′-methoxymethoxymethylbiphenyl-4-carbonylamino)ethoxy]phenyl]propionate
In a similar manner to that described in Example 2, a reaction was carried out using ethyl 2-butyl-3-[4-[2-(3′-methoxymethoxymethylbiphenyl-4-carbonylamino)ethoxy]phenyl]propionate (573 mg), which is the product of Reference example 15(d), and aqueous sodium hydroxide (1N, 2.00 ml) and the reaction mixture was treated to afford the desired compound (472 mg) as a white powder.

reactant | ethyl 2-butyl-3-[4-[2-(3′-methoxymethoxymethylbiphenyl-4-carbonylamino)ethoxy]phenyl]propionate | 573 mg | C(CCC)C(C(=O)OCC)CC1=CC=C(C=C1)OCCNC(=O)C1=CC=C(C=C1)C1=CC(=CC=C1)COCOC | C33H41NO6
reactant | sodium hydroxide | 1N, 2.00 ml | [OH-].[Na+]
product | Sodium 2-butyl-3-[4-[2-(3′-methoxymethoxymethylbiphenyl-4-carbonylamino)ethoxy]phenyl]propionate | 472 mg | C(CCC)C(C(=O)[O-])CC1=CC=C(C=C1)OCCNC(=O)C1=CC=C(C=C1)C1=CC(=CC=C1)COCOC.[Na+] | InChI=1S/C31H37NO6.Na/c1-3-4-7-28(31(34)35)19-23-9-15-29(16-10-23)38-18-17-32-30(33)26-13-11-25(12-14-26)27-8-5-6-24(20-27)21-37-22-36-2;/h5-6,8-16,20,28H,3-4,7,17-19,21-22H2,1-2H3,(H,32,33)(H,34,35);/q;+1/p-1
